US05538940
115 g (0.4 mol) of methyl (E)-2-bromomethyl-β-methoxycinnamate and 105 g (0.4 mol) of triphenylphosphine in 700 ml of tetrahydrofuran are refluxed for 24 h. Filtration with suction and washing with tetrahydrofuran result in 181 g (82% yield) of (E)-2-(1-methoxy-2-methoxycarbonylethenyl)benzyltriphenylphosphonium bromide in the form of colorless crystals with melting point 189°-192° C.

reactant | methyl (E)-2-bromomethyl-β-methoxycinnamate | 0.4 mol, 115 g | BrCC1=C(\C(=C/C(=O)OC)\OC)C=CC=C1 | C12H13BrO3
reactant | triphenylphosphine | 0.4 mol, 105 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
product | (E)-2-(1-methoxy-2-methoxycarbonylethenyl)benzyltriphenylphosphonium bromide | 181 g, 82% yield | [Br-].CO\C(=C\C(=O)OC)\C1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1 | InChI=1S/C30H28O3P.BrH/c1-32-29(22-30(31)33-2)28-21-13-12-14-24(28)23-34(25-15-6-3-7-16-25,26-17-8-4-9-18-26)27-19-10-5-11-20-27;/h3-22H,23H2,1-2H3;1H/q+1;/p-1/b29-22+;
